US08182718B2
1-Phenyl-1H-benzimidazole
To a flask were added crude N-phenylbenzene-1,2-diamine, 9.7 g formamidine acetate and 175 ml 2-methoxyethanol and the mixture was heated to reflux under nitrogen for 30 minutes. After cooling to 22 C, the solvent was removed and the mixture was dissolved in ethyl acetate and washed with water. Following removal of the solvent, the product was purified by silica gel chromatography using 50% ethyl acetate in hexane giving a tan oil.

reactant | N-phenylbenzene-1,2-diamine | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
reactant | formamidine acetate | 9.7 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 175 ml | COCCO | C3H8O2
product | 1-Phenyl-1H-benzimidazole | C1(=CC=CC=C1)N1C=NC2=C1C=CC=C2 | C13H10N2
